US07452993B2
Step 2: Synthesis of 3-[3-(2-Methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzenesulfonamide
Into a 5 mL Personal Chemistry microwave reaction vial were added 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine (0.0496 g, 0.103 mmol), 3-Bromo-N,N-dimethyl-benzenesulfonamide (0.0417 g, 0.143 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (13.9 mg, 0.017 mmol), acetonitrile (1 mL) and saturated aqueous NaHCO3 (1 mL). The vial was sealed, purged with N2, and irradiated in a Personal Chemistry Optimizer at 90° C. for 15 min. The layers were separated, and the aqueous phase was extracted 3× with EtOAc. The combined organic phase was treated with brine, dried (Na2SO4), filtered and concentrated. The crude product was dissolved in 5 mL of a solution consisting of 1 part HClO4 (70%, ACS) and 20 parts glacial acetic acid, and the solution was stirred at rt for 1 h. The reaction mixture was concentrated under vacuum, and neutralized to pH 7 with saturated NaHCO3 followed by solid NaHCO3. The quenched reaction mixture was partitioned between EtOAc and water, the layers were separated, and the aqueous phase was extracted 2× with EtOAc. The combined organic phase was treated with brine, dried (Na2SO4), filtered and concentrated. Purification by mass-triggered LC (positive mode, ESI) through a C-18 reverse-phase column (Thomson Instrument Co. ODS-A 10A, 5 μ, 50×21.3 mm, eluting at 20 mL/min with acetonitrile (containing 0.1% formic acid) and water (containing 0.1% formic acid) in a 5-95% gradient afforded the title compound, which upon lysophilization appeared as a light yellow powder (10.4 mg, 25%). 1H-NMR (500 MHz, d6-DMSO) δ=13.91 (br. s, 1H), 8.92 (d, J=2.0 Hz, 1H), 8.44 (d, J=2.0 Hz, 1H), 8.12 (m, 1H), 8.01 (br.s, 1H), 7.76 (m, 2H), 7.67 (dd, J=2.0, 7.5 Hz, 1H), 7.45 (m, 1H), 7.22 (d, J=8.0 Hz, 1H), 7.09 (t, J=8.0 Hz, 1H), 3.85 (s, 3H), 2.66 (s, 6H); MS: m/z 409.1 [MH+].

reactant | 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrrolo[2,3-b]pyridine | 0.103 mmol, 0.0496 g | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)COCC[Si](C)(C)C | C26H37BN2O4Si
reactant | 3-Bromo-N,N-dimethyl-benzenesulfonamide | 0.143 mmol, 0.0417 g | BrC=1C=C(C=CC1)S(=O)(=O)N(C)C | C8H10BrNO2S
reactant | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 3-[3-(2-Methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzenesulfonamide | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C=2C=C(C=CC2)S(=O)(=O)N(C)C | C21H20N4O3S
